US06339092B1
Step A: 1-[2-(Biphenyloxy)ethyl]pyrrolidine
1.76 mol of 4-hydroxybiphenyl, 2.29 mol of 1-(2-chloroethyl)pyrrolidine and 5.3 mol of potassium carbonate are placed in 2.5 liters of dimethylformamide. The whole is heated at 50° C. ovemright. After cooling, the solid is filtered off and the solvent is removed by evaporation. The residue is taken up in ethyl acetate. After washing of the organic phase drying and evaporation, a residue is obtained which is purified by chromatography over silica using an ethyl acetate/ethanol mixture (80/20) as eluant. The expected product is obtained after crystallisation of the residual oil.

reactant | 4-hydroxybiphenyl | 1.76 mol | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | 1-(2-chloroethyl)pyrrolidine | 2.29 mol | ClCCN1CCCC1 | C6H12ClN
reactant | potassium carbonate | 5.3 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2.5 liters | CN(C=O)C | C3H7NO
product | 1-[2-(Biphenyloxy)ethyl]pyrrolidine | C=1(C(=CC=CC1)OCCN1CCCC1)C1=CC=CC=C1 | C18H21NO
